US04550166
8-(2-Pyridinyl)-1,2,4-triazolo[4,3-a]pyridine
A mixture of 1.7 g of 2'-hydrazino-2,3'-bipyridine and 50 ml of triethyl orthoformate was heated on a steam bath for 3 hours. Standing and chilling gave crystals which were collected, washed with hexane and dried, giving 1.5 g of the desired product as cream colored crystals, mp 212°-214° C.

reactant | 2'-hydrazino-2,3'-bipyridine | 1.7 g | N(N)C1=NC=CC=C1C1=NC=CC=C1 | C10H10N4
reactant | triethyl orthoformate | 50 ml | C(OCC)(OCC)OCC | C7H16O3
product | 8-(2-Pyridinyl)-1,2,4-triazolo[4,3-a]pyridine | 1.5 g | N1=C(C=CC=C1)C=1C=2N(C=CC1)C=NN2 | C11H8N4
